US07723378B2
To a solution of 3-{4-[3-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2-ethyl-6-methyl-phenyl}-acrylic acid ethyl ester (630 mg, 1.25 mmol) in ethanol (25 mL), a suspension of Pd/C (400 mg, 10% Pd) in ethanol (15 mL) is added and the resulting slurry is stirred at 65° C. for 16 h under 8 bar of H2. The catalyst is filtered off and the solvent of the filtrate is evaporated. The residue is separated by CC on silica gel eluting with heptane:EA 4:1 to give 3-{4-[3-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propyl]-2-ethyl-6-methyl-phenyl}-propionic acid ethyl ester (340 mg, contains traces of the corresponding isopropyl ester) as a colourless oil; LC-MS: tR=1.28 min, [M+1]=509.49.

reactant | 3-{4-[3-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propenyl]-2-ethyl-6-methyl-phenyl}-acrylic acid ethyl ester | 1.25 mmol, 630 mg | C(C)OC(C=CC1=C(C=C(C=C1C)C=CC(=O)C=1SC(=C2C1CCC(C2)(C)C)C(F)(F)F)CC)=O | C28H31F3O3S
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethanol | 15 mL | C(C)O | C2H6O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 3-{4-[3-(5,5-dimethyl-3-trifluoromethyl-4,5,6,7-tetrahydro-benzo[c]thiophen-1-yl)-3-oxo-propyl]-2-ethyl-6-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C2C1CCC(C2)(C)C)C(F)(F)F)CC)=O | C28H35F3O3S
